US06559143B1
4-({3-[7-(3,3-Dimethyl-2-oxobutyl)-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl]propyl}amino)benzonitrile
A mixture of 4-{[3-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)propyl]amino}benzonitrile (Preparation C; 5.73 g, 0.02 mol), K2CO3 (11.05 g, 0.08 mol) in MeCN (300 mL) was treated with 1-chloropinacolone (4.44 g, 0.032 mol). The mixture was stirred at 50° C. overnight before DCM was added and the mixture filtered. The filter cake was then washed with a mixture of DCM and MeCN before the solvent was evaporated from the filtrate. The resulting residue was purified by chromatography on silica, eluting with a gradient of ethyl acetate:methanol:ammoniacal methanol (95:5:0 to 95:0:5), to give the title compound (5.8 g, 73.9%).

reactant | 4-{[3-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)propyl]amino}benzonitrile | 0.02 mol, 5.73 g | C12CN(CC(CNC1)O2)CCCNC2=CC=C(C#N)C=C2 | C16H22N4O
reactant | K2CO3 | 0.08 mol, 11.05 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-chloropinacolone | 0.032 mol, 4.44 g | ClCC(C(C)(C)C)=O | C6H11ClO
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | MeCN | 300 mL | CC#N | C2H3N
product | 4-({3-[7-(3,3-Dimethyl-2-oxobutyl)-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl]propyl}amino)benzonitrile | 5.8 g, 73.9% | CC(C(CN1CC2CN(CC(C1)O2)CCCNC2=CC=C(C#N)C=C2)=O)(C)C | C22H32N4O2
